US07419984B2
N*4*-(4-Bromo-phenyl)-6-(2,5-dichloro-phenyl)-pyrimidine-2,4-diamine
A mixture of the hydrochloride salt of 4-chloro-6-(2,5-dichloro-phenyl)-pyrimidin-2-yl-amine (0.03 g, 0.096 mmol) and 4-bromoaniline (0.034 g, 0.020 mmol) in ethanol (7.5 ml) was heated under reflux for 1 hour. After evaporation of the solvent under reduced pressure, the residue was treated with 1.0 N hydrochloric acid (10 ml) and stirred for 30 minutes. Filtration provided the crude product, which was treated with ethyl acetate (10 ml) and stirred for 1 hour. After filtration the solid was dissolved in methanol (10 ml) and treated with aqueous sodium carbonate solution (1.0 M, 1 ml). After stirring for 1 hour, the solvent was evaporated under reduced pressure and the solid was treated with water (10 ml). After stirring for 15 minutes, filtration provided the title compound (59% yield) as a white powder. 1H NMR (DMSO-d6) δ 6.31 (s, 1H, Ar), 6.54 (s, 2H, NH2), 7.45 (d, 2H, J=8.9 Hz, Ar), 7.52 (dd, 1H, J=8.6 Hz, J-2.6 Hz, Ar), 7.60 (d, 1H, J=8.6 Hz, Ar), 7.64 (d, 1H, J=2.6 Hz, Ar), 7.77 (d, 2H, J=8.9 Hz, Ar), 9.46 (s, 1H, NH).

reactant | 4-chloro-6-(2,5-dichloro-phenyl)-pyrimidin-2-yl-amine | 0.096 mmol, 0.03 g | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)Cl)N | C10H6Cl3N3
reactant | 4-bromoaniline | 0.020 mmol, 0.034 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | N*4*-(4-Bromo-phenyl)-6-(2,5-dichloro-phenyl)-pyrimidine-2,4-diamine | 59% yield | BrC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)Cl)N | C16H11BrCl2N4
